US09376442B2
Ethyl 3-(ethanimidoylamino)-5-methyl-1H-pyrrole-2-carboxylate hydrochloride
Ethyl-3-amino-5-methyl-1H-pyrrole-2-carboxylate (58.87 g; 0.35 mol) prepared according to literature [Gangjee A.; Li W.; Yang J.; Kisliuk R. L.; J. Med. Chem. 2008, 51, 68] is suspended in acetonitrile (1750 mL). To the suspension is added dropwise 4M HCl in dioxane (473 mL; 1.89 mol) within 15 minutes. After complete addition the reaction mixture is heated to 50° C. for 18 hours. The reaction mixture is cooled to 10° C., the solid is collected by suction filtration and washed with cold acetonitrile (400 mL). A second crop of product is obtained from the mother liquor after concentration under reduced pressure. The residue is collected with t-butylmethyl-ether. After the suction filtration the solids are combined and dried in vacuum at 50° C. to yield the title compound as off-white solid.

reactant | Ethyl-3-amino-5-methyl-1H-pyrrole-2-carboxylate | 0.35 mol, 58.87 g | C(C)OC(=O)C=1NC(=CC1N)C | C8H12N2O2
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 1.89 mol, 473 mL | O1CCOCC1 | C4H8O2
reactant | acetonitrile | 1750 mL | C(C)#N | C2H3N
product | Ethyl 3-(ethanimidoylamino)-5-methyl-1H-pyrrole-2-carboxylate hydrochloride | Cl.C(C)(=N)NC1=C(NC(=C1)C)C(=O)OCC | InChI=1S/C10H15N3O2.ClH/c1-4-15-10(14)9-8(13-7(3)11)5-6(2)12-9;/h5,12H,4H2,1-3H3,(H2,11,13);1H
